US04622402
(1) 4-Aminosulfonyl-3-thiophenecarbonylchloride
A solution of 1.0 g of 4-aminosulfonylthiophene-3-carboxylic acid in 20 ml of thionyl chloride is heated in an oil bath maintained at 90° C. for 2 hours. Rotoevaporation gives 1.0 g of the title compound, m.p. 236°-238° C.

reactant | 4-aminosulfonylthiophene-3-carboxylic acid | 1.0 g | NS(=O)(=O)C=1C(=CSC1)C(=O)O | C5H5NO4S2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Aminosulfonyl-3-thiophenecarbonylchloride | 1.0 g | NS(=O)(=O)C=1C(=CSC1)C(=O)Cl | C5H4ClNO3S2
